US04913728
Aqueous ammonium sulfide (60 g., 52-60%) is added dropwise to a warm (75° C.), stirred ethanol solution of 5-chloro-2-trifluoromethylnitrobenzene (22.6 g., 0.1 mole) and the resulting mixture is heated for four hours at a heating bath temperature of 97° C. and then allowed to cool to room temperature. The reaction mixture is poured into water, and the organic product is extracted with diethyl ether. After washing and drying the ether solution, the ether is removed by evaporation to give 5-chloro-2-trifluoromethylaniline.

reactant | ammonium sulfide | 60 g | [NH4+]=S
reactant | ethanol | C(C)O | C2H6O
reactant | 5-chloro-2-trifluoromethylnitrobenzene | 0.1 mole, 22.6 g | ClC=1C=CC(=C(C1)[N+](=O)[O-])C(F)(F)F | C7H3ClF3NO2
solvent | water | O | H2O
product | 5-chloro-2-trifluoromethylaniline | ClC=1C=CC(=C(N)C1)C(F)(F)F | C7H5ClF3N
